US04752325
To a mixture of 5-amino-2-chloro-4-fluorothiophenol (8.4 g), sodium hydroxide (3 g), water (80 ml), diethyl ether (40 ml) and tributylbenzylammonium chloride (0.1 g), propargyl chloride (5.2 g) was dropwise added at room temperature (ca. 20° to 25° C.), and the resultant mixture was stirred at the same temperature for 3 hours. The water layer was separated and extracted with ether. The ether extract was combined with the ether layer, washed with water, dried and concentrated under reduced pressure. The residue was crystallized from methanol to give 3.25 g of 4-chloro-2-fluoro-5-propargylthioaniline. M.P., 58°-59.5° C.

reactant | 5-amino-2-chloro-4-fluorothiophenol | 8.4 g | NC=1C(=CC(=C(C1)S)Cl)F | C6H5ClFNS
reactant | sodium hydroxide | 3 g | [OH-].[Na+]
reactant | water | 80 ml | O | H2O
reactant | propargyl chloride | 5.2 g | C(C#C)Cl | C3H3Cl
catalyst | tributylbenzylammonium chloride | 0.1 g | [Cl-].C(CCC)[N+](CC1=CC=CC=C1)(CCCC)CCCC
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | 4-chloro-2-fluoro-5-propargylthioaniline | 3.25 g | ClC1=CC(=C(N)C=C1SCC#C)F | C9H7ClFNS
